US06455520B1
Using an analogous procedure to that described in the first paragraph of Example 26, 3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzoic acid was reacted with N-(3-amino4-methylphenyl)-2-morpholinopyridine4-carboxamide to give N-{3-[3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamido]-4-methylphenyl}-2-morpholinopyridine-4-carboxamide; NMR Spectrum: (DMSOd6) 1.42 (s, 9H), 2.15 (s, 2H), 2.22 (s, 3H), 3.44 (m, 3H), 3.55 (t, 4H), 3.6 (m, 1H), 3.77 (t, 4H), 5.18 (m, 1H), 7.13 (d, 1H), 7.21 (m, 1H), 7.37 (m, 2H), 7.5 (t, 1H), 7.56 (s, 1H), 7.61 (d, 2H), 7.81 (d, 1H), 8.3 (d, 1H), 9.9 (s, 1H), 10.31 (s, 1H); Mass Spectrum: M+H+ 602.

reactant | 3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzoic acid | C(C)(C)(C)OC(=O)N1CC(CC1)OC=1C=C(C(=O)O)C=CC1 | C16H21NO5
reactant | N-(3-amino4-methylphenyl)-2-morpholinopyridine4-carboxamide | NC=1C=C(C=CC1C)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H20N4O2
product | N-{3-[3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamido]-4-methylphenyl}-2-morpholinopyridine-4-carboxamide | C(C)(C)(C)OC(=O)N1CC(CC1)OC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=CC(=NC=C2)N2CCOCC2)C=CC1 | C33H39N5O6
